US07932262B2
Step 3. Preparation of 2-Hydroxy-7-methoxyquinazoline
2-Formyl-5-methoxyaniline (11.93 g, 79.5 mmol, 1.0 eq) and urea (38.0 g, 0.636 mol, 8.0 eq) were mixed, ground into a fine powder and placed into a 1 L 2-neck flask equipped with a mechanical stirrer and an air condenser. The flask was placed into a preheated (160° C.) oil bath. The reaction mixture melted and was stirred at 170-180° C. for 1 hour until it solidified forming yellowish-brown solid. The reaction mixture was cooled to RT, crushed, mixed with 70 mL of H2O and stirred for ˜1 hour at RT. The solid was filtered, washed with 150 mL of H2O and 20 mL of ice cold Et2O. The yellow solid thus obtained was dried over P4O10 under high vacuum for several hours and the crude material (12.57 g) was used for the next step without purification.

reactant | 2-Formyl-5-methoxyaniline | 79.5 mmol, 11.93 g, 1.0 eq | C(=O)C1=C(N)C=C(C=C1)OC | C8H9NO2
reactant | urea | 0.636 mol, 38.0 g, 8.0 eq | NC(=O)N | CH4N2O
solvent | H2O | 70 mL | O | H2O
product | 2-Hydroxy-7-methoxyquinazoline | OC1=NC2=CC(=CC=C2C=N1)OC | C9H8N2O2
